US06794395B1
(29) 3-(Z)-(1-anilino-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone and aniline

reactant | 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(CC)OCC)=O | C17H21NO5
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 3-(Z)-(1-anilino-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone | N(C1=CC=CC=C1)\C(\CC)=C\1/C(NC2=CC(=C(C=C12)OC)OC)=O | C19H20N2O3
